US06770463B2
Preparation of 1-Fluoro-4-[(E)-2-methoxyethenyl]-2-phenoxybenzene
To a stirred suspension of (methoxymethyl)triphenylphosphonium chloride (2.48 g) in ether (50 ml) at room temperature under nitrogen is added phenyllithium (4 ml of a 1.8 M solution in ether, 7.2 mmol) and the resulting mixture stirred for 20 minutes. 4-fluoro-3-phenoxybenzaldehyde (1.30 g, 6.0 mmol) is then added and the reaction is stirred for 4 hours. The reaction mixture was diluted with saturated aqueous ammonium chloride (20 ml) and diethyl ether (50 ml). The organic layer is dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel eluting with ether:hexane (5:95) to afford the title compound as a colorless liquid (1.30 g, 89%) which is characterized by 1HNMR, IR and mass spectral analyses.

reactant | (methoxymethyl)triphenylphosphonium chloride | 2.48 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | 4-fluoro-3-phenoxybenzaldehyde | 6.0 mmol, 1.30 g | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-Fluoro-4-[(E)-2-methoxyethenyl]-2-phenoxybenzene | 1.30 g, 89% | FC1=C(C=C(C=C1)\C=C\OC)OC1=CC=CC=C1 | C15H13FO2
